US07531663B2
0.5 g (11.92 mmol) of lithium hydroxide monohydrate and 15 cm3 of water are added to a solution at a temperature in the region of 22° C. of 1.1 g (3.64 mmol) of 3-methoxycarbonyl-1-(isoquinol-3-yl)-1H-indole in 15 cm3 of tetrahydrofuran. After stirring at the reflux point of the solvent for 15 hours, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa), the residue is triturated in water and the resulting suspension is filtered. The solid obtained is suspended in 20 cm3 of water adjusted to pH 7 with N hydrochloric acid. After stirring at a temperature in the region of 22° C. for 1 hour, the solid is filtered off and dried under reduced pressure (2.7 kPa) to give 0.64 g of 3-carboxy-1-(isoquinol-3-yl)-1H-indole in the form of a white solid. IR spectrum (KBr): 1661, 1629, 1593, 1540, 1464, 1217 and 748 cm−1.

reactant | lithium hydroxide monohydrate | 11.92 mmol, 0.5 g | O.[OH-].[Li+]
reactant | 3-methoxycarbonyl-1-(isoquinol-3-yl)-1H-indole | 3.64 mmol, 1.1 g | COC(=O)C1=CN(C2=CC=CC=C12)C=1N=CC2=CC=CC=C2C1 | C19H14N2O2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 15 cm3 | O1CCCC1 | C4H8O
solvent | water | 20 cm3 | O | H2O
solvent | water | 15 cm3 | O | H2O
product | 3-carboxy-1-(isoquinol-3-yl)-1H-indole | 0.64 g | C(=O)(O)C1=CN(C2=CC=CC=C12)C=1N=CC2=CC=CC=C2C1 | C18H12N2O2
